US05221671
8-Acetyl-5-(2-chlorophenyl)-3-methyl-6,7,8,9-tetrahydro-1H,3H-pyrido[4',3':4,5]thieno[3,2-f][1,4]diazepin-2-one
636.8 g of 6-acetyl-2-(2-aminopropionylamino)-3-(2-chlorobenzoyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine was dissolved in 2.3 liters of toluene, 637 ml of pyridine and 94.3 ml of acetic acid and refluxed over day and night while removing water from the reaction system. After removal of the reaction solution by distillation, benzene was added, followed by cooling and filtering the resultant crystals to obtain 300 g of the intended product.

reactant | 6-acetyl-2-(2-aminopropionylamino)-3-(2-chlorobenzoyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine | 636.8 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)NC(C(C)N)=O)C(C2=C(C=CC=C2)Cl)=O | C19H20ClN3O3S
reactant | pyridine | 637 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic acid | 94.3 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 2.3 liters | C1(=CC=CC=C1)C | C7H8
product | 8-Acetyl-5-(2-chlorophenyl)-3-methyl-6,7,8,9-tetrahydro-1H,3H-pyrido[4',3':4,5]thieno[3,2-f][1,4]diazepin-2-one | 300 g | C(C)(=O)N1CC2=C(C=3C(=NC(C(NC3S2)=O)C)C2=C(C=CC=C2)Cl)CC1 | C19H18ClN3O2S
